US06306818B1
Carbonic acid 4-Allyl-2-methoxy-phenyl ester benzyl ester
Starting Material: Eugenol and benzyl chloroformate.

reactant | Eugenol | C=1(C(O)=CC=C(CC=C)C1)OC | C10H12O2
reactant | benzyl chloroformate | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
product | Carbonic acid 4-Allyl-2-methoxy-phenyl ester benzyl ester | C(C1=CC=CC=C1)OC(OC1=C(C=C(C=C1)CC=C)OC)=O | C18H18O4
